US07572784B2
{3-[4-Chloro-2-(2,6-difluoro-benzoyl)-phenyl]-prop-2-ynyl}-carbamic acid tert-butyl ester (3aa)
(5-Chloro-2-iodo-phenyl)-(2,6-difluoro-phenyl)-methanone (2aa) (5.5 g, 14.5 mmol), prop-2-ynyl-carbamic acid tert-butyl ester (2.5 g, 16 mmol), PdCl2(PPh3)2 (0.6 g, 0.9 mmol) and Cu(I)I (0.2 g, 0.9 mmol) were suspended in anhydrous CH2Cl2 (50 mL) and the mixture was sparged with nitrogen for 30 min. Diethylamine (8 mL) was added and the solution was stirred at room temperature for 16 h. The solution was concentrated in vacuo and the resulting residue purified by column chromatography (silica gel, 0 to 15% EtOAc/hexanes) to afford 3aa (3.6 g, 61%) as a white solid, MS m/z=406 (M+H).

reactant | (5-Chloro-2-iodo-phenyl)-(2,6-difluoro-phenyl)-methanone | 14.5 mmol, 5.5 g | ClC=1C=CC(=C(C1)C(=O)C1=C(C=CC=C1F)F)I | C13H6ClF2IO
reactant | prop-2-ynyl-carbamic acid tert-butyl ester | 16 mmol, 2.5 g | C(C)(C)(C)OC(NCC#C)=O | C8H13NO2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(PPh3)2 | 0.9 mmol, 0.6 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | {3-[4-Chloro-2-(2,6-difluoro-benzoyl)-phenyl]-prop-2-ynyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC#CC1=C(C=C(C=C1)Cl)C(C1=C(C=CC=C1F)F)=O)=O | C21H18ClF2NO3
